US09353086B2
6-Chloro-N-[3-(1H-imidazol-1-yl)propyl]pyridine-2-carboxamide
6-Chloro-pyridine-2-carboxylic acid (1.00 g, 6.35 mmol) was dissolved in DCM (20 mL) and HOBt (1.03 g, 7.62 mmol), EDC.HCl (1.46 g, 7.62 mmol) and 1-(3-aminopropyl)imidazole (0.95 g, 7.62 mmol) were added. The reaction mixture was stirred for 18 h, diluted with DCM (130 mL) washed with sat aq Na2CO3 (100 mL), brine (30 mL), water (30 mL), dried (MgSO4) and concentrated in vacuo. The residue was triturated with water to give the crude title compound (1.05 g, 63%) as an off-white solid. LCMS (ES+): 266 [MH]+.

reactant | 6-Chloro-pyridine-2-carboxylic acid | 6.35 mmol, 1.00 g | ClC1=CC=CC(=N1)C(=O)O | C6H4ClNO2
reactant | HOBt | 7.62 mmol, 1.03 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 7.62 mmol, 1.46 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-(3-aminopropyl)imidazole | 7.62 mmol, 0.95 g | NCCCN1C=NC=C1 | C6H11N3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 130 mL | C(Cl)Cl | CH2Cl2
product | 6-Chloro-N-[3-(1H-imidazol-1-yl)propyl]pyridine-2-carboxamide | 1.05 g, 63% | ClC1=CC=CC(=N1)C(=O)NCCCN1C=NC=C1 | C12H13ClN4O
